US04788186
8-chloro-6-phenyl-3-[(2-hydroxypropyl)methylamino]-1,2,4-triazolo[3,4-a]phthalazine
The compound of the title is prepared by following substantially the same procedure outlined in example 122 but starting from 3,8-dichloro-6-phenyl-1,2,4-triazolo[3,4-a]phthalazine and (2-hydroxypropyl)methylamine. Yield: 73%. M.p. 236°-38° C. (from ethanol/chloroform).

reactant | 3,8-dichloro-6-phenyl-1,2,4-triazolo[3,4-a]phthalazine | ClC1=NN=C2N1N=C(C1=CC(=CC=C21)Cl)C2=CC=CC=C2 | C15H8Cl2N4
reactant | (2-hydroxypropyl)methylamine | OC(CNC)C | C4H11NO
solvent | ethanol chloroform | C(C)O.C(Cl)(Cl)Cl
product | 8-chloro-6-phenyl-3-[(2-hydroxypropyl)methylamino]-1,2,4-triazolo[3,4-a]phthalazine | Yield: 73% | ClC=1C=C2C(=NN3C(C2=CC1)=NN=C3N(C)CC(C)O)C3=CC=CC=C3 | C19H18ClN5O
